US07670591B2
Methyl 2-[2-(dimethylamino)pyrimidin-5-yl]-1,3-benzoxazole-6-carboxylate
The synthesis was performed according to the procedure described for 5-(6-methoxy-1,3-benzoxazol-2-yl)-2-fluoropyridine starting with 180 mg of 2-dimethylamino-pyrimidine-5-carbaldehyde and 200 mg of methyl 4-amino-3-hydroxybenzoate to give 256.8 mg of the title compound.

reactant | 5-(6-methoxy-1,3-benzoxazol-2-yl)-2-fluoropyridine | COC1=CC2=C(N=C(O2)C=2C=CC(=NC2)F)C=C1 | C13H9FN2O2
reactant | 2-dimethylamino-pyrimidine-5-carbaldehyde | 180 mg | CN(C1=NC=C(C=N1)C=O)C | C7H9N3O
reactant | methyl 4-amino-3-hydroxybenzoate | 200 mg | NC1=C(C=C(C(=O)OC)C=C1)O | C8H9NO3
product | Methyl 2-[2-(dimethylamino)pyrimidin-5-yl]-1,3-benzoxazole-6-carboxylate | 256.8 mg | CN(C1=NC=C(C=N1)C=1OC2=C(N1)C=CC(=C2)C(=O)OC)C | C15H14N4O3
